US07932272B2
2-Amino-6-(2-cyanoethyl)-nicotinic acid methyl ester
To a solution of 2-amino-6-vinyl-nicotinic acid methyl ester (760 mg, 4.26 mmol) in tetrahydrofuran (76 mL) was added a solution of diethyl aluminum cyanide in toluene (12.8 mL, 12.8 mmol) dropwise under sodium chloride—an ice bath cooling, at an internal temperature of −5° C. or below, then, the solution was gradually allowed to room temperature and stirred overnight. The reaction solution was partitioned into an aqueous solution of saturated ammonium chloride and ethyl acetate. This organic layer was separated, washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by silica gel column chromatography, and the title compound (180 mg, 0.878 mmol, 21%) was obtained as a yellow oil.

reactant | 2-amino-6-vinyl-nicotinic acid methyl ester | 4.26 mmol, 760 mg | COC(C1=C(N=C(C=C1)C=C)N)=O | C9H10N2O2
reactant | diethyl aluminum cyanide | [C-]#N.C(C)[Al+]CC
reactant | toluene | 12.8 mmol, 12.8 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium chloride | [Cl-].[Na+]
solvent | tetrahydrofuran | 76 mL | O1CCCC1 | C4H8O
product | 2-Amino-6-(2-cyanoethyl)-nicotinic acid methyl ester | 0.878 mmol, 180 mg, 21% | COC(C1=C(N=C(C=C1)CCC#N)N)=O | C10H11N3O2
